US09302989B2
5-(2-(2-chlorobenzyl)thiazol-4-yl)thiophen-2-amine
The title compound was prepared as described in Example 806A, substituting 2-bromo-1-(5-nitrothiophen-2-yl)ethanone for 2-bromo-1-(4-nitrophenyl)ethanone and 2-(2-chlorophenyl)ethanethioamide for 2-phenylethanethioamide.

reactant | 2-bromo-1-(4-nitrophenyl)ethanone | BrCC(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C8H6BrNO3
reactant | 2-(2-chlorophenyl)ethanethioamide | ClC1=C(C=CC=C1)CC(N)=S | C8H8ClNS
reactant | 2-phenylethanethioamide | C1(=CC=CC=C1)CC(N)=S | C8H9NS
product | 5-(2-(2-chlorobenzyl)thiazol-4-yl)thiophen-2-amine | ClC1=C(CC=2SC=C(N2)C2=CC=C(S2)N)C=CC=C1 | C14H11ClN2S2
